US06455528B1
Synthesis of N-(1-(4-(1-(4-(Pyrimidin-2-yl)piperazin-1-yl)ethyl)phenyl)-1-methylethyl)acetamide
By similar reaction and treatment to that in Example 1(5) using 1-(2-pyrimidyl) piperazine dihydrochloride instead of phenylpiperazine and N-(1-(4-(1-chloroethyl)phenyl)-1-methylethyl)acetamide instead of N-(4-chloromethylphenylmethyl)acetamide, the title compound was obtained as a white amorphous solid.

reactant | 1-(2-pyrimidyl) piperazine dihydrochloride | Cl.Cl.N1=C(N=CC=C1)N1CCNCC1
reactant | N-(1-(4-(1-chloroethyl)phenyl)-1-methylethyl)acetamide | ClC(C)C1=CC=C(C=C1)C(C)(C)NC(C)=O | C13H18ClNO
product | N-(1-(4-(1-(4-(Pyrimidin-2-yl)piperazin-1-yl)ethyl)phenyl)-1-methylethyl)acetamide | N1=C(N=CC=C1)N1CCN(CC1)C(C)C1=CC=C(C=C1)C(C)(C)NC(C)=O | C21H29N5O
